US05948819
Synthesis of methyl (E)-2-benzylideneaminooxymethyl-α-hydroxyphenylacetate (Compound No. 483)
Then, benzaldehyde oxime (0.28 g, 2.3 mmol) and potassium carbonate (0.43 g, 3.1 mmol) were added to a solution of methyl 2-bromomethyl-α-hydroxyphenylacetate (0.40 g, 1.5 mmol) in acetone (6 ml), and the mixture was stirred at room temperature for 18 hours. Water was added, and the mixture was extracted with ether, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=3/1) to give the desired compound methyl (E)-2-benzylideneaminooxymethyl-α-hydroxy-phenylacetate (0.08 g, 17%) as an oil.

reactant | benzaldehyde oxime | 2.3 mmol, 0.28 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | potassium carbonate | 3.1 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromomethyl-α-hydroxyphenylacetate | 1.5 mmol, 0.40 g | BrCC1=C(C=CC=C1)C(C(=O)OC)O | C10H11BrO3
reactant | Water | O | H2O
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | methyl (E)-2-benzylideneaminooxymethyl-α-hydroxy-phenylacetate | 0.08 g, 17% | C(/C1=CC=CC=C1)=N\OCC1=C(C=CC=C1)C(C(=O)OC)O | C17H17NO4
